Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p mechanical fall with headstrike

 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
Mr. ___ is an ___ year old gentleman who is on Eliquis 
for atrial fibrillation who had a mechanical fall on ___ 
striking his head. He was initially seen at an OSH where imaging 
revealed what was reported as only intracranial hemorrhage. He 
was given KCentra and Keppra and transferred to ___ for 
further workup and care. He underwent imaging of the head as no 
imaging was able to be uploaded- ___ showed IVH, IPH, and 
traumatic SAH.
Neurosurgery was consulted to assist in his care. 

 
Past Medical History:
CABG x 3, CHF, afib, HTN

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
ADMISSION:
Neuro:
Mental status: slightly lethargic but awakens with stimualtion,
cooperative with exam, normal affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 4mm to
2mm bilaterally. Visual fields are grossly full to 
confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. unable to 
adequately
assess pronator drift given prior rotator cuff injury on right

Sensation: Intact to light touch

Coordination: normal on finger-nose-finger

DISCHARGE

Neuro:
Mental status: Awake and alert x 3.  Occasional confusion/memory 
issues.,
cooperative with exam, normal affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 4mm to
2mm bilaterally. Visual fields are grossly full to 
confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. unable to 
adequately
assess pronator drift given prior rotator cuff injury on right

Sensation: Intact to light touch

Coordination: normal on finger-nose-finger
 
Pertinent Results:
___    CT HEAD W/O CONTRAST:
1. Grossly stable bifrontal extra-axial fluid collections, with 
interval 
increase in hyperdense components, concerning for acute blood 
products 
components.  Recommend clinical correlation and attention on 
followup imaging. 
2. Grossly stable multiple hemorrhagic contusions, subarachnoid 
hemorrhage, intraventricular hemorrhage as described. 
3. Stable, nondisplaced right zygomatic arch fracture. 

___   CT ABD & PELVIS WITH CONTRAST:
1. Large intramuscular hematoma measuring 9.2 x 4.7 x 14.8 cm in 
the 
musculature overlying the right hip and pelvis laterally. 
2. There is a rounded lesion demonstrating soft tissue density 
in the lower pole of the right kidney measuring 1.9 x 1.6 cm. 
This could be further characterized by dedicated nonemergent 
ultrasound or MR. 
3. Non hemorrhagic fluid is seen throughout the scrotum. 

___ CT HEAD W/O CONTRAST
Diffuse subarachnoid, intraparenchymal, and intraventricular 
hemorrhage, as described above.  Recommend comparison with 
previous imaging, if available, to establish any relevant 
interval change. 

___  CT HEAD W/O CONTRAST:

1. Multiple areas of intracranial hemorrhage. Specifically, 
there
are multiple foci of subarachnoid hemorrhage, a small right
putaminal intraparenchymal hematoma, intraventricular 
hemorrhage,
small foci of cortical hemorrhage near the vertex, as well as
possible small bilateral subacute subdural hematomas. 
2. No mass-effect. No evidence of infarction. 
3. Soft tissue swelling of the right parietal bone without
underlying fracture. 

 
Brief Hospital Course:
On morning of presentation to ___, patient was admitted to the 
hospital under ICU level of care for continued care and 
observation. Patient was placed on Keppra for seizure 
prophylaxis. On admission, patient is neurologically intact 
however with history of Eloquis patient needs frequent 
monitoring. 

In the evening on ___ patient underwent a repeat CT Head that 
was stable however did have significant motion artifact. 

On ___, patient was seen during morning rounds, neurologically 
intact however is delayed with speech. Patient is oriented x 3, 
PEARL 3 brisk; mild left drift, 4+/5 left IP/hamstring; right 
bicep ___ all other muscle groups intact; face symmetric. 
Patient was deemed stable and appropriate to move to the floor 
for continued care. Patient was ordered to have ___ consults. 

On ___, the patient experienced intermittant confusion, though 
his neurological examination remained at baseline. Placement for 
rehabilitation was pending.

On ___, the patient's wife was very upset, a long discussion 
took place about prognosis and TBI symptoms.

On ___, the patient remained neurologically and 
hemodynamically stable. 

On ___, disposition planning for discharge for acute 
rehabilitation at ___ initiated. The patient was accepted 
to ___, await bed availability. The afternoon labs 
resulted and revealed a drop in the patients H&H to 6.8/20.7. 
Stat type&screen were sent, patient consented for transfusion of 
1unit RBCs. CT abdomen and pelvis and revealed a large 
intramuscular hematoma measuring 9.2 x 4.7 x 14.8 cm in the 
musculature overlying the right hip and pelvis laterally. 

On ___, the patient was doing well, with appropriate response 
to the unit of RBCs provided on ___. Hemoglobin is now up to 
8.4, hematocrit up to 25.1. Neurosurgery continues to await ___ 
consult regarding hematoma.  ACS evaluated th patient and plan 
was made to continue to monitor his Hgb/Hct and to consult ___ if 
it continues to trend down.

On ___, the patient was neurologically stable.  His hemoglobin 
and hematocrit have remained stable at 8.2 and 25.1 
respectively.  He has worked well with ___ and plan is to 
discharge to acute rehab today.

 

 
Medications on Admission:
Amiodarone 200 mg PO DAILY  
Atorvastatin 80 mg PO QPM  
Lisinopril 2.5 mg PO DAILY  
Metoprolol Succinate XL 100 mg PO DAILY  
Tamsulosin 0.4 mg PO DAILY  
Venlafaxine XR 75 mg PO DAILY  
Eliquis

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN fever/pain 
2. Amiodarone 200 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Bisacodyl 10 mg PO/PR DAILY 
5. Cepastat (Phenol) Lozenge 2 LOZ PO Q4H:PRN sore throat 
6. Docusate Sodium 100 mg PO BID 
7. HydrALAzine 10 mg IV Q6H:PRN SBP > 140 
8. LeVETiracetam 1000 mg PO BID 
9. Lisinopril 2.5 mg PO DAILY 
10. Metoprolol Succinate XL 100 mg PO DAILY 
11. Ondansetron 4 mg IV Q8H:PRN nausea 
12. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
13. Senna 8.6 mg PO BID 
14. Sodium Chloride 0.9%  Flush 3 mL IV Q8H and PRN, line flush 
15. Tamsulosin 0.4 mg PO DAILY 
16. Venlafaxine XR 75 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
IPH
IVH
tSAH
Right retroperitoneal hematoma.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Activity
We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
No driving while taking any narcotic or sedating medication. 
If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time. 
You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
You may have difficulty paying attention, concentrating, and 
remembering new information.
Emotional and/or behavioral difficulties are common. 
Feeling more tired, restlessness, irritability, and mood 
swings are also common.
Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Headaches:
Headache is one of the most common symptom after a brain 
bleed. 
Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


When to Call Your Doctor at ___ for:
Severe pain, swelling, redness or drainage from the incision 
site. 
Fever greater than 101.5 degrees Fahrenheit
Nausea and/or vomiting
Extreme sleepiness and not being able to stay awake
Severe headaches not relieved by pain relievers
Seizures
Any new problems with your vision or ability to speak
Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
Sudden numbness or weakness in the face, arm, or leg
Sudden confusion or trouble speaking or understanding
Sudden trouble walking, dizziness, or loss of balance or 
coordination
Sudden severe headaches with no known reason

 
Followup Instructions:
___